US07084120B2
Synthesis of H-Pro-Ile-Thia/HC1
6.5 mM Boc-Pro-Ile-OH (one equivalent=1 eq.) is suspended, together with N-hydroxybenzotriazole (1 eq.) and thiazolidine (1 eq.), in 30 ml of dichloromethane (DCM). The equivalent amount of 1M dicyclohexylcarbodiimide solution is added dropwise, at −10° C., with stirring. Stirring is carried out at −10° C. and overnight at room temperature. For the purpose of working-up, the solution is thoroughly filtered off from the dicyclohexylurea that is precipitated out, DCM is drawn off in vacuo and the residue obtained is taken up in ethyl acetate. The ethyl acetate solution is washed at least three times with saturated bicarbonate solution, once with saturated NaC1 solution, three times with dilute KHSO4 solution and again with NaC1 solution. The ethyl acetate phase is dried over Na2SO4 and concentrated using a rotary evaporator, and the remaining crude product is recrystallised using ethyl acetate/pentane. Boc-Pro-Ile-Thia crystallises after 1–2 days at 4° C. (yield 80%). 1.1N HC1/glacial acetic acid solution is added to Boc-Pro-Ile-Thia (3 ml per mmol of peptide). Stirring is carried out for two hours at RT, absolute ether is added and excess removal solution is evaporated off using a rotary evaporator. The hydrochloride crystallises quantitatively under absolute ether overnight at 4° C. The crystals are quickly separated off by suction filtration, washed several times with absolute ether, and the product is stored in a desiccator over KOH or phosphorus pentoxide.

reactant | Boc-Pro-Ile-OH | 6.5 mM, one equivalent | N1([C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)CCC1)C(=O)OC(C)(C)C | C16H28N2O5
reactant | N-hydroxybenzotriazole | 1 eq. | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | thiazolidine | 1 eq. | S1CNCC1 | C3H7NS
reactant | dicyclohexylcarbodiimide | 1M | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | H-Pro-Ile | yield 80% | N1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)O)CCC1 | C11H20N2O3
